US04351902
A process for producing hydrogen peroxide and 2-keto-D-gluconic acid, comprising, reacting D-glucose in aqueous solution with oxygen and glucose-1-oxidase to catalize oxidation of the first carbon of the D-glucose and produce D-glucono-δ-lactone, reacting the D-glucono-δ-lactone in aqueous solution with oxygen and pyranose-2-oxidase to catalyze oxidation of the second carbon of the D-glucono-δ-lactone and produce hydrogen peroxide, 2-keto-D-gluconic acid, and D-isoascorbic acid, and recovering the 2-keto-D-gluconic acid.

reactant | D-glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | oxygen | O=O | O2
product | D-glucono-δ-lactone | C(C1C(C(C(C(=O)O1)O)O)O)O | C6H10O6
